US09102673B2
Step 1: 4-(2-Fluoropyridin-4-yl)-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid potassium salt
Methyl 4-chloro-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (50 mg, 0.121 mmole), 2-fluoro-4-(tributylstannyl)pyridine (61 mg, 0.158 mmole), and bis(tri-t-butylphosphine)palladium(0) (6 mg, 0.012 mmole) were combined in a screw cap vial. To this was added 1,4-dioxane (0.5 mL). N2 was bubbled through the mixture for 10 seconds. The vial was capped then heated to 100° C. After stirring overnight the mixture was cooled to RT. Excess QuadraPure was added and stirring continued at RT. After stirring 6 hr the mixture was filtered washing with EtOAc and concentrated. The residue was taken up in 1 mL THF. To this was added KOTMS (47 mg, 0.366 mmole) at RT. After 3 hr the mixture was concentrated. The residue was taken up in Et2O. The resulting off-white solid (53 mg, 88%) was collected by filtration washing with Et2O and dried in vacuo. 1H NMR (400 MHz, DMSO): δ 8.39 (d, J=5.1 Hz, 1 H); 8.35 (d, J=5.9 Hz, 1 H); 7.95 (d, J=5.1 Hz, 1 H); 7.63 (d, J=6.3 Hz, 2 II); 7.21 (d, J=8.4 Hz, 2 H); 7.04 (s, 1 H); 6.95 (d, J=8.8 Hz, 2 H); 5.12-5.05 (m, 2 H); 4.39-4.33 (m, 2 H).

reactant | Methyl 4-chloro-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 0.121 mmole, 50 mg | ClC1=NC=CC2=C1C=C(N2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OC | C18H14ClF3N2O4
reactant | 2-fluoro-4-(tributylstannyl)pyridine | 0.158 mmole, 61 mg | FC1=NC=CC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | KOTMS | 0.366 mmole, 47 mg | O([K])[Si](C)(C)C
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.012 mmole, 6 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 4-(2-Fluoropyridin-4-yl)-1-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid potassium salt | [K+].FC1=NC=CC(=C1)C1=NC=CC2=C1C=C(N2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)[O-] | InChI=1S/C22H15F4N3O4.K/c23-19-11-13(5-7-27-19)20-16-12-18(21(30)31)29(17(16)6-8-28-20)9-10-32-14-1-3-15(4-2-14)33-22(24,25)26;/h1-8,11-12H,9-10H2,(H,30,31);/q;+1/p-1
